US07279575B2
Ethyl 3-amino-2-phenylpropanoate hydrochloride (4.38 g, 19.13 mmol) was suspended in methylene chloride (80 mL) and triethylamine (5.86 mL, 2.2 eq.). The mixture was cooled to 0° C. and treated dropwise with ethyl 3-chloro-3-oxopropanoate (2.69 mL, 1.1 eq.). The reaction was kept at room temperature for one hour, diluted with methylene chloride, washed with 1 N HCl and then with 5% NaHCO3, dried over Na2SO4 and evaporated to dryness. The crude material was chromatographed on silica gel, eluting with hexane/ethyl acetate 1/1, to give 3-(2-ethoxycarbonyl-acetylamino)-2-phenyl-propionic acid ethyl ester (4.24 g, Y=72%) as an oil.

reactant | Ethyl 3-amino-2-phenylpropanoate hydrochloride | 19.13 mmol, 4.38 g | Cl.NCC(C(=O)OCC)C1=CC=CC=C1
reactant | triethylamine | 5.86 mL, 2.2 eq. | C(C)N(CC)CC | C6H15N
reactant | ethyl 3-chloro-3-oxopropanoate | 2.69 mL, 1.1 eq. | ClC(CC(=O)OCC)=O | C5H7ClO3
solvent | methylene chloride | 80 mL | C(Cl)Cl | CH2Cl2
product | 3-(2-ethoxycarbonyl-acetylamino)-2-phenyl-propionic acid ethyl ester | 4.24 g, 72% | C(C)OC(C(CNC(CC(=O)OCC)=O)C1=CC=CC=C1)=O | C16H21NO5
